US04273782
Phosphorus oxychloride (10 ml) was added dropwise with cooling to a stirred solution of 1-(3-carboxypropyl)indole (100 g) in ethanol (750 ml). The solution was heated under reflux for 8 hours and then evaporated. The residue was distilled to give 1-(3-ethoxycarbonylpropyl)indole (95.0 g), b.p. 164°-170° C./2 m.m.

reactant | Phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-(3-carboxypropyl)indole | 100 g | C(=O)(O)CCCN1C=CC2=CC=CC=C12 | C12H13NO2
reactant | ethanol | 750 ml | C(C)O | C2H6O
product | 1-(3-ethoxycarbonylpropyl)indole | 95.0 g | C(C)OC(=O)CCCN1C=CC2=CC=CC=C12 | C14H17NO2
